US05965739
10-Deacetyl taxol
A solution of taxol (0.026 g, 0.030 mmol) and 98% hydrazine (0.035 g, 1.1 mmol) in 95% ethanol (1.0 mL) is stirred at room temperature for 2 hr. The solution is poured into water and ether, the mixture is shaken well, and the layers separated. The aqueous layer is extracted with additional ether. The combined ether extracts are dried over Na2SO4, filtered and concentrated, giving 0.021 g of the title compound: 1H NMR spectrum in CDCl3 is identical to the spectrum reported for 10-deacetyltaxol (Ringel, I.; Horwitz, S. B. J. Pharmacol. Exp. Ther., 1987, 242, 692) and is identical to the spectrum of an authentic sample.

reactant | taxol | 0.030 mmol, 0.026 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | hydrazine | 1.1 mmol, 0.035 g | NN | H4N2
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 10-Deacetyl taxol | 0.021 g | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)O | C45H49NO13
